US06632963B1
In a manner similar to that of Example 1(c), by reaction of 3.4 g (11.6 mmol) of 1-methoxymethoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthalene-boronic acid with 1.32 g (5.8 mmol) of 3-bromocinnamic acid, trituration in heptane gave 1.4 g (62%) of 3-[3-(1-methoxymethoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)phenyl]acrylic acid in the form of a white powder having a melting point of 188°-9° C.

reactant | 1-methoxymethoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthalene-boronic acid | 11.6 mmol, 3.4 g | COCOC1=C(C=CC=2C(CCC(C12)(C)C)(C)C)B(O)O | C16H25BO4
reactant | 3-bromocinnamic acid | 5.8 mmol, 1.32 g | BrC=1C=C(C=CC(=O)O)C=CC1 | C9H7BrO2
solvent | heptane | CCCCCCC | C7H16
product | 3-[3-(1-methoxymethoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)phenyl]acrylic acid | 1.4 g, 62% | COCOC1=C(C=CC=2C(CCC(C12)(C)C)(C)C)C=1C=C(C=CC1)C=CC(=O)O | C25H30O4
